US08957062B2
Step F: 1-(5-methyl-6-{2-[(1S,2R)-2-{1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl}cyclopropyl]ethoxy}pyridin-3-yl)imidazolidin-2-one
The mixture of 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridine-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carbonitrile (13 mg, 0.035 mmol), N-hydroxy-2-methylpropanimidamide (5 mg., 0.05 mmol) and zinc chloride (0.1 mL., 0.05 mmol) in 1 mL of DMF was stirred 2 hrs at 80° C., then PTSA (7 mg, 0.037 mmol) was added and stirred for additional 2 hrs at 85° C. The mixture was cooled to room temperature and then quenched by sat'd aq soln of NaHCO3. The mixture was extracted with EtOAc (2×5 mL), and the combined organics were then washed with brine, dried over sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified Gilson HPLC eluting with a gradient of 10-90% acetonitrile in water with 0.05% TFA as buffer. The fractions containing product were collected into a 20 mL scintillation vial and frozen via a dry ice/acetone bath. The frozen material was then lyophilized overnight to give the product as a white fluffy solid. LCMS (ESI) m/z 455 [M+H]+.

reactant | 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridine-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carbonitrile | 0.035 mmol, 13 mg | CC=1C(=NC=C(C1)N1C(NCC1)=O)OCC[C@H]1[C@H](C1)C1CCN(CC1)C#N | C20H27N5O2
reactant | N-hydroxy-2-methylpropanimidamide | 0.05 mmol, 5 mg | ONC(C(C)C)=N | C4H10N2O
reactant | PTSA | 0.037 mmol, 7 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | zinc chloride | 0.05 mmol, 0.1 mL | [Cl-].[Zn+2].[Cl-]
product | 1-(5-methyl-6-{2-[(1S,2R)-2-{1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl}cyclopropyl]ethoxy}pyridin-3-yl)imidazolidin-2-one | CC=1C=C(C=NC1OCC[C@H]1[C@H](C1)C1CCN(CC1)C1=NC(=NO1)C(C)C)N1C(NCC1)=O | C24H34N6O3
